US07214690B2
To a solution of 5-hydroxy-4-(trifluoromethyl)-1H-quinolin-2-one (4.38 g, 19.1 mmol) and diisopropylamine (14 mL, 100 mmol) in 100 mL EtOAc was added a solution of N-bromosuccinimide (3.74 g, 21.0 mmol) in 70 mL EtOAc at −10° C. over 30 min. The reaction mixture was stirred for 1 h, then acidified to pH 1 by the addition of 6M HCl. The mixture was extracted with EtOAc (3×150 mL) and the combined organic layers were washed with brine (200 mL), dried over MgSO4, filtered and concentrated under reduced pressure. Recrystallization from chloroform:hexanes afforded 4.5 g (77%) of 6-bromo-5-hydroxy-4-(trifluoromethyl)-1H-quinolin-2-one, an off-white solid. Rf0.4 (1:1 EtOAc:hexanes); 1H NMR (400 MHz, acetone-d6) δ 11.1 (broad s, 1H), 8.75 (broad s, 1H), 7.76 (d, 1H, J=8.8), 7.04 (d, 1H, J=8.8), 6.98 (s, 1H).

reactant | 5-hydroxy-4-(trifluoromethyl)-1H-quinolin-2-one | 19.1 mmol, 4.38 g | OC1=C2C(=CC(NC2=CC=C1)=O)C(F)(F)F | C10H6F3NO2
reactant | diisopropylamine | 100 mmol, 14 mL | C(C)(C)NC(C)C | C6H15N
reactant | N-bromosuccinimide | 21.0 mmol, 3.74 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | HCl | 6M | Cl | ClH
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | 6-bromo-5-hydroxy-4-(trifluoromethyl)-1H-quinolin-2-one | 4.5 g, 77% | BrC=1C(=C2C(=CC(NC2=CC1)=O)C(F)(F)F)O | C10H5BrF3NO2
